US09212187B2
Synthesis of 5-(2,2-dihydroxyethyl)-5H-furo[3,2-c]pyridin-4-one
Sodium hydride (60% in oil, 0.36 g) was suspended in DMF(10 ml), and was cooled to 0° C. in an ice water bath. 5H-Furo[3,2-c]pyridin-4-one(1.0 g) was added thereto at the same temperature, and the mixture was stirred at 0° C. for an hour. Bromoacetaldehyde diethylacetal(2.6 ml) was added thereto, and the mixture was stirred at 80° C. for 5 hours. Water was added to the reaction liquid, followed by extraction by ethyl acetate. The organic layer was dried over sodium sulfate, and condensed under reduced pressure. A 3N-hydrochloric acid(5.8 ml) was added to an acetone solution (20 ml) of the residue, and the liquid was stirred at 60° C. for 5 hours. Water was added to the reaction liquid and stirred at room temperature. The precipitated insoluble matter was separated, washed with water, and dried to give the title compound(0.90 g) as a white solid.

reactant | Sodium hydride | 0.36 g | [H-].[Na+]
reactant | 5H-Furo[3,2-c]pyridin-4-one | 1.0 g | O1C=CC=2C(NC=CC21)=O | C7H5NO2
reactant | Bromoacetaldehyde diethylacetal | 2.6 ml | C(C)OC(CBr)OCC | C6H13BrO2
reactant | Water | O | H2O
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 5-(2,2-dihydroxyethyl)-5H-furo[3,2-c]pyridin-4-one | 0.90 g | OC(CN1C(C2=C(C=C1)OC=C2)=O)O | C9H9NO4
